US07091228B2
To a mixture of sodium hydride (0.98 g, 40.91 mmol) and diethylene glycol monoethyl ether (25 mL) was added 2-chloro-5-(trifluoromethyl)aniline (5.00 g, 25.57 mmol) under a nitrogen atmosphere. The resulting mixture was stirred at rt for 30 minutes, and then carbon disulfide (3.89 g, 51.13 mmol) was added. The reaction mixture was then heated at 140° C. for 6 hours. After cooling the solution to rt, the product was precipitated by addition of conc. HCl, collected by filtration, and recrystallized from isopropyl ether to afford 2-mercapto-5-(trifluoromethyl)benzothiazole (2.65 g, 44%). 1H NMR (400 MHz, DMSO-d6) δ 7.49 (s, 1H), 7.61 (d, 1H), 7.94 (d, 1H).

reactant | sodium hydride | 40.91 mmol, 0.98 g | [H-].[Na+]
reactant | diethylene glycol monoethyl ether | 25 mL | C(C)OCCOCCO | C6H14O3
reactant | 2-chloro-5-(trifluoromethyl)aniline | 25.57 mmol, 5.00 g | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
reactant | carbon disulfide | 51.13 mmol, 3.89 g | C(=S)=S | CS2
product | 2-mercapto-5-(trifluoromethyl)benzothiazole | 2.65 g, 44% | SC=1SC2=C(N1)C=C(C=C2)C(F)(F)F | C8H4F3NS2
